US04654352
7-Bromomethyl-3-phenylbenzo[b]thiophene (13.5 g; 44.6 mmole) was added to a solution of hexamine (14.0 g; 0.1 mole) in a mixture of acetic acid (50 ml) and water (25 ml) and the mixture refluxed with stirring for 3.5 hours. Concentrated hydrochloric acid (25 ml) was added and the mixture refluxed for a further 20 minutes. The solution was cooled, poured into water and extracted with diethyl ether. The combined ether extracts were dried over magnesium sulphate and evaporated. The crude product was purified by column chromatography on silica eluting with a mixture of methylene chloride and hexane. The relevant fractions were combined and evaporated to yield 3-phenylbenzo[b]thiophene-7-carboxaldehyde as an oil. (4.9 g).

reactant | 7-Bromomethyl-3-phenylbenzo[b]thiophene | 44.6 mmole, 13.5 g | BrCC1=CC=CC2=C1SC=C2C2=CC=CC=C2 | C15H11BrS
reactant | hexamine | 0.1 mole, 14.0 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 25 ml | O | H2O
product | 3-phenylbenzo[b]thiophene-7-carboxaldehyde | C1(=CC=CC=C1)C=1C2=C(SC1)C(=CC=C2)C=O | C15H10OS
